US07713994B2
4-[2-(1-Methoxy-ethyl)-pyrrolidin-1-ylmethyl]-phenylamine
2-(1-Methoxy-ethyl)-1-(4-nitro-benzyl)-pyrrolidine (250 mg, 0.95 mmol) is dissolved in MeOH (10 mL). To this solution is added FeCl3.6H2O (25 mg, 0.09 mmol) and active charcoal (12 mg, 1.0 mmol). The suspension is heated to reflux. Hydrazine hydrate (1.0 mL) is added, and reflux is continued for 4 h. After the mixture is cooled to room temperature, the active charcoal is filtered off through Celite, and the MeOH is removed under reduced pressure. The residue (200 mg, 90%) is used directly in the next step.

reactant | 2-(1-Methoxy-ethyl)-1-(4-nitro-benzyl)-pyrrolidine | 0.95 mmol, 250 mg | COC(C)C1N(CCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O3
reactant | charcoal | 1.0 mmol, 12 mg | C | CH4
reactant | Hydrazine hydrate | 1.0 mL | O.NN
solvent | MeOH | 10 mL | CO | CH4O
product | 4-[2-(1-Methoxy-ethyl)-pyrrolidin-1-ylmethyl]-phenylamine | COC(C)C1N(CCC1)CC1=CC=C(C=C1)N | C14H22N2O
